US20010041799A1
To a solution of 4-amino-N-[(2-chloro-6-methylphenyl)thioxomethyl]-L-phenylalanine methyl ester (3.57 mmol, 1.296 g) and 2,6-dichlorobenzoyl chloride (3.75 mmol, 0.785 g) in dichloromethane (20 mL) was added diisopropylethylamine (5.35 mmol, 0.93 mL) at room temperature. The solution was stirred for 15 h at which time TLC analysis of the mixture indicated the absence of starting material. After the addition of water (30 mL), the layers were separated and the aqueous phase was extracted with dichloromethane (20 mL). The combined extracts were washed with brine (50 mL), dried (MgSO4) and concentrated under reduced pressure. The residue was purified by silica gel column chromatography ( hexane:ethyl acetate, 4:1 to 1:1) to obtain 1.91 g (83%) of N-[(2-chloro-6-methylphenyl)thioxomethyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester as an amorphous colorless solid. HRMS: Obs. mass, 535.0399. Calcd. mass, 535.0416 (M+H).

reactant | 4-amino-N-[(2-chloro-6-methylphenyl)thioxomethyl]-L-phenylalanine methyl ester | 3.57 mmol, 1.296 g | COC([C@@H](NC(=S)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)N)=O | C18H19ClN2O2S
reactant | 2,6-dichlorobenzoyl chloride | 3.75 mmol, 0.785 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | diisopropylethylamine | 5.35 mmol, 0.93 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 30 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[(2-chloro-6-methylphenyl)thioxomethyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | 1.91 g, 83% | COC([C@@H](NC(=S)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C25H21Cl3N2O3S
